* Extracted by KLayout with SG13G2 LVS runset on : 15/08/2025 15:37

.SUBCKT FMD_QNC_ota_final_decoup AVSS PLUS AVDD VOUT IBIAS MINUS
M$1 AVSS AVSS \$18088 AVSS sg13_lv_nmos L=2u W=3u AS=0.795p AD=0.795p PS=5.56u
+ PD=5.56u
M$2 \$18088 \$18089 AVSS AVSS sg13_lv_nmos L=2u W=3u AS=0.57p AD=0.57p PS=3.76u
+ PD=3.76u
M$5 AVSS AVSS \$18090 AVSS sg13_lv_nmos L=2u W=3u AS=0.795p AD=0.795p PS=5.56u
+ PD=5.56u
M$6 \$18090 \$18089 AVSS AVSS sg13_lv_nmos L=2u W=3u AS=0.57p AD=0.57p PS=3.76u
+ PD=3.76u
M$9 AVSS AVSS \$18219 AVSS sg13_lv_nmos L=2u W=3u AS=0.795p AD=0.795p PS=5.56u
+ PD=5.56u
M$10 \$18219 \$18219 AVSS AVSS sg13_lv_nmos L=2u W=3u AS=0.57p AD=0.57p
+ PS=3.76u PD=3.76u
M$11 AVSS \$18219 \$18463 AVSS sg13_lv_nmos L=2u W=3u AS=0.57p AD=0.57p
+ PS=3.76u PD=3.76u
M$15 AVDD VOUT \$18463 AVSS sg13_lv_nmos L=0.5u W=15u AS=3.4125p AD=3.4125p
+ PS=20.57u PD=20.57u
M$19 AVSS AVSS \$18089 AVSS sg13_lv_nmos L=2u W=3u AS=0.795p AD=0.795p PS=5.56u
+ PD=5.56u
M$20 \$18089 \$18463 \$18088 AVSS sg13_lv_nmos L=2u W=3u AS=0.57p AD=0.57p
+ PS=3.76u PD=3.76u
M$23 AVSS AVSS VOUT AVSS sg13_lv_nmos L=2u W=3u AS=0.795p AD=0.795p PS=5.56u
+ PD=5.56u
M$24 VOUT \$18463 \$18090 AVSS sg13_lv_nmos L=2u W=3u AS=0.57p AD=0.57p
+ PS=3.76u PD=3.76u
M$27 AVSS IBIAS IBIAS AVSS sg13_lv_nmos L=5u W=8.5u AS=1.93375p AD=1.93375p
+ PS=12.445u PD=12.445u
M$31 AVSS IBIAS \$19183 AVSS sg13_lv_nmos L=5u W=8.5u AS=1.93375p AD=1.93375p
+ PS=12.445u PD=12.445u
M$35 AVSS IBIAS \$19182 AVSS sg13_lv_nmos L=5u W=8.5u AS=1.93375p AD=1.93375p
+ PS=12.445u PD=12.445u
M$39 AVSS AVSS \$19338 AVSS sg13_lv_nmos L=1u W=6u AS=1.59p AD=1.59p PS=10.06u
+ PD=10.06u
M$40 \$19338 MINUS \$19182 AVSS sg13_lv_nmos L=1u W=6u AS=1.14p AD=1.14p
+ PS=6.76u PD=6.76u
M$41 \$19182 PLUS \$19548 AVSS sg13_lv_nmos L=1u W=6u AS=1.14p AD=1.14p
+ PS=6.76u PD=6.76u
M$42 \$19548 AVSS AVSS AVSS sg13_lv_nmos L=1u W=6u AS=1.59p AD=1.59p PS=10.06u
+ PD=10.06u
M$47 AVDD AVDD \$19338 AVDD sg13_lv_pmos L=2u W=14u AS=3.185p AD=3.185p
+ PS=19.32u PD=19.32u
M$49 AVDD \$19235 \$19548 AVDD sg13_lv_pmos L=2u W=14u AS=2.66p AD=2.66p
+ PS=15.52u PD=15.52u
M$51 AVDD \$19235 \$19338 AVDD sg13_lv_pmos L=2u W=14u AS=2.66p AD=2.66p
+ PS=15.52u PD=15.52u
M$59 AVDD AVDD \$18089 AVDD sg13_lv_pmos L=2u W=7u AS=1.855p AD=1.855p
+ PS=11.56u PD=11.56u
M$60 \$18089 \$19880 \$19548 AVDD sg13_lv_pmos L=2u W=14u AS=2.66p AD=2.66p
+ PS=15.52u PD=15.52u
M$65 \$19183 \$18089 \$19235 AVDD sg13_lv_pmos L=2u W=14u AS=3.185p AD=3.185p
+ PS=19.32u PD=19.32u
M$69 AVDD AVDD \$19235 AVDD sg13_lv_pmos L=2u W=7u AS=1.855p AD=1.855p
+ PS=11.56u PD=11.56u
M$70 \$19235 \$19235 AVDD AVDD sg13_lv_pmos L=2u W=14u AS=2.66p AD=2.66p
+ PS=15.52u PD=15.52u
M$71 AVDD \$19235 \$19880 AVDD sg13_lv_pmos L=2u W=14u AS=2.66p AD=2.66p
+ PS=15.52u PD=15.52u
M$73 AVDD \$19235 \$20211 AVDD sg13_lv_pmos L=2u W=14u AS=2.66p AD=2.66p
+ PS=15.52u PD=15.52u
M$83 AVSS \$18089 \$19880 AVDD sg13_lv_pmos L=0.5u W=14u AS=3.185p AD=3.185p
+ PS=19.32u PD=19.32u
M$87 AVDD AVDD VOUT AVDD sg13_lv_pmos L=2u W=7u AS=1.855p AD=1.855p PS=11.56u
+ PD=11.56u
M$88 VOUT \$19880 \$19338 AVDD sg13_lv_pmos L=2u W=14u AS=2.66p AD=2.66p
+ PS=15.52u PD=15.52u
C$93 VOUT AVSS cap_cmim w=25.82u l=25.82u A=666.6724p P=103.28u m=1
M$94 \$18219 VOUT \$20211 AVSS sg13_lv_nmos L=2u W=3u AS=0.795p AD=0.795p
+ PS=5.56u PD=5.56u
M$96 AVDD \$19235 AVDD AVDD sg13_lv_pmos L=0.5u W=12u AS=2.73p AD=2.73p
+ PS=16.82u PD=16.82u
M$100 AVDD \$19880 AVDD AVDD sg13_lv_pmos L=0.5u W=12u AS=2.73p AD=2.73p
+ PS=16.82u PD=16.82u
M$104 AVSS IBIAS AVSS AVSS sg13_lv_nmos L=1u W=8u AS=1.82p AD=1.82p PS=11.82u
+ PD=11.82u
M$108 AVSS \$18463 AVSS AVSS sg13_lv_nmos L=1u W=8u AS=1.82p AD=1.82p PS=11.82u
+ PD=11.82u
.ENDS FMD_QNC_ota_final_decoup
